US07402680B2
3-(4-Chloro-phenyl)-1-(2-fluoro-benzyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (129.2 mg) was prepared from 0.49 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 286 μL of 2-fluorobenzylamine, and 0.46 g of (2-nitro-vinyl)-4-chlorobenzene, replacing SiO2 with crushed 4 Å molecular sieves. MS (ESI): exact mass calculated for C20H18ClFN2, 340.11; found, m/z 341.1 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.38-7.30 (m, 5H), 7.18-7.12 (m, 3H), 7.10-7.06 (m, 1H), 5.20 (s, 2H), 4.35-4.34 (m, 2H), 3.54 (t, J=6.3 Hz, 2H), 2.94 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.49 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 2-fluorobenzylamine | 286 μL | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | (2-nitro-vinyl)-4-chlorobenzene | 0.46 g | [N+](=O)([O-])C=CC1=CC=C(C=C1)Cl | C8H6ClNO2
product | 3-(4-Chloro-phenyl)-1-(2-fluoro-benzyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 129.2 mg | ClC1=CC=C(C=C1)C1=CN(C2=C1CNCC2)CC2=C(C=CC=C2)F | C20H18ClFN2
